US08877742B2
3,4-dibromo-1H-pyrrolo[2,3-b]pyridine
A mixture of 4-bromo-1H-pyrrolo[2,3-b]pyridine (1.00 g, 5.08 mmol) and NBS (0.918 g, 5.16 mmol) in DCM (20.0 mL) was stirred at 0° C. for 1.5 hour. The resulting suspension was filtered, washed with DCM, residue collected, dried in a 50° C. oven overnight to afford the title compound (1.014 g). LCMS (A): m/z (M+H)+ 277, C7H4Br2N2 requires 276 (basic).

reactant | 4-bromo-1H-pyrrolo[2,3-b]pyridine | 5.08 mmol, 1.00 g | BrC1=C2C(=NC=C1)NC=C2 | C7H5BrN2
reactant | NBS | 5.16 mmol, 0.918 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
solvent | DCM | 20.0 mL | C(Cl)Cl | CH2Cl2
product | 3,4-dibromo-1H-pyrrolo[2,3-b]pyridine | 1.014 g | BrC1=CNC2=NC=CC(=C21)Br | C7H4Br2N2
